US07696213B2
8-(4-Methoxybenzyl)-6-bromo-4-methyl-2-(methylthio)pyrido[2,3-d]pyrimidin-7(8H)-one
To a mixture of sodium hydride (60% dispersion in mineral oil) (90 mg, 1.5 equiv.) and anhydrous DMF (5 mL) was added 6-bromo-4-methyl-2-(methylthio)pyrido[2,3-d]pyrimidin-7(8H)-one (429 mg, 1.5 mmol) and the mixture stirred for 30 minutes at 50° C. Solution was then cooled a little and p-methoxybenzylchloride (281 mg, 1.2 equiv) in 1 mL DMF was then added dropwise. Heated to 50° C. for 3 hours and then stirred at rt overnight. Cooled to rt, partitioned between water and AcOEt, water further washed with AcOEt, pooled organic extracts washed with saturated sodium bicarbonate, brine and dried over MgSO4. Filtration and solvent removal afforded crude material which was used without further purification. Yield 675 mg.

reactant | sodium hydride | 90 mg, 1.5 equiv. | [H-].[Na+]
reactant | 6-bromo-4-methyl-2-(methylthio)pyrido[2,3-d]pyrimidin-7(8H)-one | 1.5 mmol, 429 mg | BrC1=CC2=C(N=C(N=C2C)SC)NC1=O | C9H8BrN3OS
reactant | p-methoxybenzylchloride | 281 mg, 1.2 equiv | COC1=CC=C(CCl)C=C1 | C8H9ClO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 8-(4-Methoxybenzyl)-6-bromo-4-methyl-2-(methylthio)pyrido[2,3-d]pyrimidin-7(8H)-one | COC1=CC=C(CN2C(C(=CC3=C2N=C(N=C3C)SC)Br)=O)C=C1 | C17H16BrN3O2S
